US07109216B2
Part B: To a stirred suspension of 1-(4-bromophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylic acid (1.23 gram, 2.99 mmol) in dry acetonitrile (40 mL) is successively added diisopropylethylamine (DIPEA) (1.15 mL, 6.6 mmol), O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophos-phate (HBTU) (1.36 gram, 3.6 mmol) and 1-aminopiperidine (0.39 mL, 3.6 mmol). After stirring for 16 hours, the resulting mixture is concentrated in vacuo. The residue is dissolved in ethylacetate and an aqueous NaHCO3 solution is added. The ethylacetate layer is collected, washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo to give a crude solid. This solid is further purified by recrystallisation from acetonitrile to give 1-(4-bromophenyl)-2-(2,4-dichlorophenyl)-N-(piperidin-1-yl)-1H-imidazole-4-carboxamide (830 mg, 56% yield). Melting point: 219–221° C.

reactant | 1-(4-bromophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylic acid | 2.99 mmol, 1.23 gram | BrC1=CC=C(C=C1)N1C(=NC(=C1)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C16H9BrCl2N2O2
reactant | diisopropylethylamine | 6.6 mmol, 1.15 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophos-phate | 3.6 mmol, 1.36 gram | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-aminopiperidine | 3.6 mmol, 0.39 mL | NN1CCCCC1 | C5H12N2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 1-(4-bromophenyl)-2-(2,4-dichlorophenyl)-N-(piperidin-1-yl)-1H-imidazole-4-carboxamide | 830 mg, 56% yield | BrC1=CC=C(C=C1)N1C(=NC(=C1)C(=O)NN1CCCCC1)C1=C(C=C(C=C1)Cl)Cl | C21H19BrCl2N4O
